US04066507
The leupeptins under test were brought into an aqueous solution and oxidized with potassium permanganate to leupeptin acids (the argininal portion of leupeptin had been oxidized to form arginine). The resulting acids were purified and isolated by activated charcoal chromatography and acidic alumina chromatography. The isolated acids were hydrolyzed with 6N hydrochloric acid at 110° C for 24 hours. The total arginine content of the hydrolyzate was determined by means of an amino acid analyzing instrument. On the other hand, the L-arginine content of the hydrolyzate was determined by bioassay using lactic-acid bacteria. The L-arginine content (%) of the total arginine was assumed to be equal to the L-leupeptins content (L-form percantage) in the total leupeptins. The L-form content of the standard sample was 100% and that of the DL-leupeptins obtained by conventional fermentation methods was 52%.

reactant | leupeptins | CCC(=O)NC(CC(C)C)C(=O)NC(CC(C)C)C(=O)NC(CCCN=C(N)N)C=O.CC(C)CC(C(=O)NC(CC(C)C)C(=O)NC(CCCN=C(N)N)C=O)NC(=O)C
reactant | potassium permanganate | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | leupeptin | CC(C)C[C@@H](C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCN=C(N)N)C(=O)O)NC(=O)C | C20H38N6O5
reactant | argininal | N[C@@H](CCCNC(N)=N)C=O | C6H14N4O
product | arginine | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
